US04366163
2,2-Dimethyl-7-nitro-2H-benzo[b]pyran (40.00 g, the preparation of which was disclosed in U.K. Pat. No. 1,548,222), glacial acetic acid (200 ml), acetic anhydride (120 ml) and electrolytic iron powder (88 g) were stirred and heated at 120° C. for 16 hours. Dilution with water, extraction via chloroform, followed by washing of the organic layer with water and sodium bicarbonate solution, drying evaporation etc., gave a crude gum which was chromatographed on a silica gel column using ethyl acetate--60°--80° petroleum ether mixtures in a gradient elution technique. Fractions homogeneous by TLC were combined and recrystallised from 60°-80° petroleum ether to give 7-acetamido-2,2-dimethyl-2H-benzo[b]pyran (5.27 g) as white needles of mp 80°-81° C.; nmr (CDCl3) δ 1.39 (6H), 2.12 (3H), 5.48 (1H, d, J=10), 6.21 (1H, d, J=10), 6.76-7.34 (3H, m), 8.95 (1H). Anal. Calcd for C13H15NO2 ; C, 71.87; H, 6.96; N, 6.45. Found: C, 72.00; H, 7.11; N, 6.23%.

reactant | 2,2-Dimethyl-7-nitro-2H-benzo[b]pyran | CC1(C=CC2=C(O1)C=C(C=C2)[N+](=O)[O-])C | C11H11NO3
reactant | acetic anhydride | 120 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | iron | 88 g | [Fe] | Fe
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 7-acetamido-2,2-dimethyl-2H-benzo[b]pyran | 5.27 g | C(C)(=O)NC=1C=CC2=C(OC(C=C2)(C)C)C1 | C13H15NO2
